2171-09-15 07:36:00 Physician Resident Progress Note
Chief Complaint: acute pulmonary edema
   24 Hour Events:
   [**2171-9-14**].
   -CT head performed which showed "no bleed, no acute stroke, chronic
   ischemic changes."
   - weaned from CPAP to simple face [**Last Name (un) **]
   - mental status improved
   History obtained from Patient
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   anorexia;
   Daypro (Oral) (Oxaprozin)
   dyspepsia;
   Atenolol
   Heart block; Ra
   Keppra (Oral) (Levetiracetam)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2171-9-14**] 09:04 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-9-14**] 09:00 PM
   Morphine Sulfate - [**2171-9-15**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-15**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 77 (76 - 95) bpm
   BP: 118/47(67) {92/42(56) - 152/69(97)} mmHg
   RR: 29 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     94 mL
                                                                    113 mL
   PO:
             TF:
   IVF:
                                                                     94 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    410 mL
   Urine:
                                                                    330 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -236 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (542 - 585) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.39/42/77/24/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   9.1 g/dL
   154 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.6 mEq/L
   31 mg/dL
   104 mEq/L
   140 mEq/L
   28.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2171-9-14**]  09:45 PM
                             [**2171-9-15**]  02:04 AM
                             [**2171-9-15**]  04:17 AM
                             [**2171-9-15**]  04:26 AM
   WBC
   8.2
   Hct
   28.6
   Plt
   120
   Cr
   1.7
   TropT
   0.04
   TCO2
   26
   26
   26
   Glucose
   154
   Other labs: PT / PTT / INR:15.8/26.6/1.4, CK / CKMB /
   Troponin-T:208/9/0.04, Lactic Acid:2.8 mmol/L, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9945**] is an 82 yo female with severe chronic diastolic HF, afib
   on coumadin, HTN, moderate pulmonary hypertension, rheumatoid
   arthritis, chronic anemia who is s/p hip replacement for mechanical
   fall, now with post-op hypoxia secondary to diastolic CHF.
   .
   1.  SOB.  SOB is likely secondary to diastolic CHF given that she is
   known to have significant diastolic CHF and has had several admissions
   for CHF exacerbations.  She reportedly got only 1L NS in the OR and 2
   units of FFP.  Additionally her post-op pain may have contributed to
   tachycardia and worsening diastolic dysfunction.  CXR consistent with
   acute pulmonary edema.  She has no clear evidence of pneumonia at
   present.  She is know to have pulmonary hypertension. If no improvement
   with rate control and diuresis, consider CTA to evaluate for PE.
   - dilt drip for HR control in 70-90s as long as blood pressure
   tolerates it
   - pain control with around the clock tylenol and prn dilaudid to avoid
   worsening tachycardia
   - lasix 20 IV for goal negative 500 ccs
   - bp control with nitropaste/drip as needed for hypertensive, though
   currenly low normal bp on diltiazem drip
   - a-line for frequent abgs
   - continue home digoxin
   - continue spironolactone
   .
   2. Seizure.  Family denies history of seizure though patient has a
   keppra allergy suggesting seizure activity at some point.  Her new
   focal motor seizure concerning for focal brain lesion.  At present, not
   stable enough to lay flat for head CT.
   - CT head when more stable
   - avoid benzos given how sedated she was after 2 mg of ativan
   - neuro consult in AM re management of focal partial motor seizures
   .
   3.  S/p hip replacement.  Patient post-op for hip replacement.  Per
   neuro, able to weight bear fully on both legs now.
   - lovenox ppx and coumadin to [**Last Name (un) 9947**] AM
   - pain control with around the clock tylenol and low dose dilaudid
   - ortho following
   - continue fosamax, calcium/ vitamin d for osteoporosis
   .
   4.  A. fib with RVR.  Patient with A. fib with RVR post-operatively
   leading to diastolic CHF exacerbation.  Now rate controlled with dilt
   drip.
   - hold oral nodal agents overnight while on dilt drip
   - resume coumadin in AM and cover with prophylactic lovenox while
   awaiting therapeutic INR
   - dilt drip for rate control
   - continue dig
   .
   5. CAD.  Cardiac enzymes mildly elevated without ischemic changes on
   EKG.  Likely secondary to demand.
   - continue aspirin, statin
   - on dilt drip for rate control
   - hold BB
   - trend cardiac enzymes
   .
   6.  Hypertension.
   - hold antihypertensives
   - dilt drip for BP control with goal BP in 100s to 120s systolic
   .
   6. Rheumatoid arthritis.  Patient is chronically on methotrexate and 5
   mg of prednisone
   - continue methotrexate and prednisone
   - no current indication for stress dose steroids, but low threshold to
   start if hypotensive
   .
   7. Osteoporosis.
   - continue fosamax
   - calcium/ vitamin d
   .
   8. Gout.
   - allopurinol
   .
   CODE: FULL, ICU consent by phone
   Access; PIVs, A-line
   FEN: NPO pending improvement of respiratory status
   COMM: husband, daughter in law, and daughter ([**Name (NI) 1308**] - HCP)
   [**Telephone/Fax (1) 9948**]
   Dispo: pending improvement of respiratory status
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2171-9-14**] 09:00 PM
   18 Gauge - [**2171-9-14**] 09:00 PM
   Arterial Line - [**2171-9-14**] 09:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2171-09-15 09:45:00 Physician Attending Progress Note
Chief Complaint: post-op hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82F with HFpEF, afib with RVR, multiple prior admits for CHF
   exacerbation, s/p mechanical fall and hip fx, admitted to ortho, s/p
   surgery.
   24 Hour Events:
   -Intraop 1 liter and 2 units ffp.
   -Post-op became tachycardic and hypoxic, requiring bipap.
   -Post-op  events notable for focal motor seizure x2. Second seizure
   treated with ativan, resulting in unresponsiveness but followed by
   improved mental status
   -head ct neg
   -overnight bipap, resolved acute metabolic acidosis
   -started on dilt, with good rate control
   -s/p lasix with good uop
   -decreased O2 requrement
   History obtained from Patient
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   anorexia;
   Daypro (Oral) (Oxaprozin)
   dyspepsia;
   Atenolol
   Heart block; Ra
   Keppra (Oral) (Levetiracetam)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2171-9-14**] 09:04 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-9-14**] 09:00 PM
   Morphine Sulfate - [**2171-9-15**] 08:00 AM
   Other medications:
   dilt gtt, lovenox, cefazolin, dig, spironolactone, prednisone,
   provastatin, fa, allopurinol, vit d, ca, mvi, colace, tylenol, asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-9-15**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 76 (76 - 95) bpm
   BP: 101/40(59) {92/40(56) - 152/69(97)} mmHg
   RR: 19 (18 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     94 mL
                                                                    238 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                     94 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    660 mL
   Urine:
                                                                    330 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -236 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (542 - 585) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.39/42/77/24/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 154
   Physical Examination (at 14:40)
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese. Comfortable lying at 45 degrees)
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal). No S3. JVP to
   the angle of the jaw.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   bibasilar, left greater than right.
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent edema, Left: Absent edema
   Skin:  wam
   Neurologic: Responds to voice. Oriented X 3
   Labs / Radiology
   9.1 g/dL
   120 K/uL
   154 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.6 mEq/L
   31 mg/dL
   104 mEq/L
   140 mEq/L
   28.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2171-9-14**]  09:45 PM
                             [**2171-9-15**]  02:04 AM
                             [**2171-9-15**]  04:17 AM
                             [**2171-9-15**]  04:26 AM
   WBC
   8.2
   Hct
   28.6
   Plt
   120
   Cr
   1.7
   TropT
   0.04
   TCO2
   26
   26
   26
   Glucose
   154
   Other labs: PT / PTT / INR:15.8/26.6/1.4, CK / CKMB /
   Troponin-T:208/9/0.04, Lactic Acid:2.8 mmol/L, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: lactate up, then down
   Imaging: cxr: large heart; bilateral alveolar infiltrates
   Assessment and Plan
   82F with afib on coumadin, brittle CHF, s/p mechanical fall with left
   femoral neck fx, now s/p total hip replacement complicated by acute
   pulmonary edema, with imprvement after bipap, lasix, and rate control
   with dilt:
   CHF:  likely from htn from pain; also from rapid rate in setting of
   post-op pain. By exam, filling pressures still seem to be high. Would
   aim for negative fluid balance today of 0.5 L. Consider repeat echo;
   last echo reported normal LVEF  - given the size of the cardiac
   silhoette on CXR, I am a bit skeptical about that finding.
   -transition from dilt iv to po meds
   -cont dig
   afib:
   -aggressive rate control
   -anticoagulation (lovenox to coumadin)
   Acute Renal Failure: likely in setting of poor forward flow. Monitor
   closely with diuresis. Electrolytes acceptable.
   -monitor lytes, function
   Seizure disorder: prior positive EEG and seizure
   -neuro consult for managment; non-urgent
   -avoiding benzos
   -may need mri
   s/p hip surgery
   -aggressive pain control
   -ortho recs / management
   RA
   -cont prednisone. If BP drops, consider adrenal suppression from
   chronic steroids.
   Anemia: presumed related to surgery.
   ICU Care
   Nutrition: advance diet
   Glycemic Control:  ok
   Lines:
   20 Gauge - [**2171-9-14**] 09:00 PM
   18 Gauge - [**2171-9-14**] 09:00 PM
   Arterial Line - [**2171-9-14**] 09:01 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor later today pending stable heart rate,
   bp
   Total time spent: 45 minutes
   Patient is critically ill

2171-09-16 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -dilt gtt titrated off and home BB resumed.
   -consider neuro c/s in am for ?sz post op with r.arm
   -HCT drifting, but post-op, 28.6, 26.6, 25.7
   -ordered for 1 unit PRBCs
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   anorexia;
   Daypro (Oral) (Oxaprozin)
   dyspepsia;
   Atenolol
   Heart block; Ra
   Keppra (Oral) (Levetiracetam)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2171-9-15**] 05:30 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2171-9-15**] 10:16 PM
   Morphine Sulfate - [**2171-9-16**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 86 (74 - 88) bpm
   BP: 123/61(80) {80/19(39) - 130/61(81)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                    715 mL
                                                                    200 mL
   PO:
                                                                    330 mL
           TF:
   IVF:
                                                                    385 mL
                                                                     72 mL
   Blood products:
   128 mL
   Total out:
                                                                  1,390 mL
                                                                    270 mL
   Urine:
                                                                  1,390 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: somnolent, opens eyes to voice/sternal rub, follows simple
   commands
   HEENT: bipap in place
   CV: RRR, no m/r/g
   Pulm: Crackles [**2-9**] way up bilaterally, no wheezes/crackles
   Abd: soft, NT, ND, bowel sounds present
   Ext: LLE with bandage with small amount of blood, mild edema, cool
   extremities
   Neuro: somnolent, follows simple comands
   .
   Labs / Radiology
   104 K/uL
   8.1 g/dL
   112 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   39 mg/dL
   103 mEq/L
   139 mEq/L
   24.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2171-9-14**]  09:45 PM
                             [**2171-9-15**]  02:04 AM
                             [**2171-9-15**]  04:17 AM
                             [**2171-9-15**]  04:26 AM
                             [**2171-9-15**]  03:23 PM
                             [**2171-9-15**]  10:32 PM
                             [**2171-9-16**]  03:01 AM
   WBC
   8.2
   7.2
   Hct
   28.6
   26.6
   25.7
   24.4
   Plt
   120
   104
   Cr
   1.7
   1.8
   TropT
   0.04
   TCO2
   26
   26
   26
   Glucose
   154
   112
   Other labs: PT / PTT / INR:14.4/31.6/1.2, CK / CKMB /
   Troponin-T:208/9/0.04, Differential-Neuts:83.7 %, Lymph:11.9 %,
   Mono:2.1 %, Eos:2.2 %, Lactic Acid:2.8 mmol/L, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9945**] is an 82 yo female with severe chronic diastolic HF, afib
   on coumadin, HTN, moderate pulmonary hypertension, rheumatoid
   arthritis, chronic anemia who is s/p hip replacement for mechanical
   fall, now with post-op hypoxia secondary to diastolic CHF.
   .
   1.  SOB.  SOB is likely secondary to diastolic CHF given that she is
   known to have significant diastolic CHF and has had several admissions
   for CHF exacerbations.  She reportedly got only 1L NS in the OR and 2
   units of FFP.  Additionally her post-op pain may have contributed to
   tachycardia and worsening diastolic dysfunction.  CXR consistent with
   acute pulmonary edema.  She has no clear evidence of pneumonia at
   present.  She is know to have pulmonary hypertension. If no improvement
   with rate control and diuresis, consider CTA to evaluate for PE.
   - dilt drip for HR control in 70-90s as long as blood pressure
   tolerates it
   - pain control with around the clock tylenol and prn dilaudid to avoid
   worsening tachycardia
   - lasix 20 IV for goal negative 500 ccs
   - bp control with nitropaste/drip as needed for hypertensive, though
   currenly low normal bp on diltiazem drip
   - a-line for frequent abgs
   - continue home digoxin
   - continue spironolactone
   .
   2. Seizure.  Family denies history of seizure though patient has a
   keppra allergy suggesting seizure activity at some point.  Her new
   focal motor seizure concerning for focal brain lesion.  At present, not
   stable enough to lay flat for head CT.
   - CT head when more stable
   - avoid benzos given how sedated she was after 2 mg of ativan
   - neuro consult in AM re management of focal partial motor seizures
   .
   3.  S/p hip replacement.  Patient post-op for hip replacement.  Per
   neuro, able to weight bear fully on both legs now.
   - lovenox ppx and coumadin to [**Last Name (un) 9947**] AM
   - pain control with around the clock tylenol and low dose dilaudid
   - ortho following
   - continue fosamax, calcium/ vitamin d for osteoporosis
   .
   4.  A. fib with RVR.  Patient with A. fib with RVR post-operatively
   leading to diastolic CHF exacerbation.  Now rate controlled with dilt
   drip.
   - hold oral nodal agents overnight while on dilt drip
   - resume coumadin in AM and cover with prophylactic lovenox while
   awaiting therapeutic INR
   - dilt drip for rate control
   - continue dig
   .
   5. CAD.  Cardiac enzymes mildly elevated without ischemic changes on
   EKG.  Likely secondary to demand.
   - continue aspirin, statin
   - on dilt drip for rate control
   - hold BB
   - trend cardiac enzymes
   .
   6.  Hypertension.
   - hold antihypertensives
   - dilt drip for BP control with goal BP in 100s to 120s systolic
   .
   6. Rheumatoid arthritis.  Patient is chronically on methotrexate and 5
   mg of prednisone
   - continue methotrexate and prednisone
   - no current indication for stress dose steroids, but low threshold to
   start if hypotensive
   .
   7. Osteoporosis.
   - continue fosamax
   - calcium/ vitamin d
   .
   8. Gout.
   - allopurinol
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2171-9-14**] 09:00 PM
   18 Gauge - [**2171-9-14**] 09:00 PM
   Arterial Line - [**2171-9-14**] 09:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2171-09-16 11:21:00 Physician Attending Progress Note
Chief Complaint: hypoxia, flash pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82F with chf, afib on coumadin, presented after mechanical fall with
   hip fx, s/p THR, postop comlicated by flash pulmonary [**Last Name (un) 468**] and afib
   with rvr:
   24 Hour Events:
   -dilt to off
   -no hypoxia
   -no seizures
   History obtained from Patient
   Allergies:
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   anorexia;
   Daypro (Oral) (Oxaprozin)
   dyspepsia;
   Atenolol
   Heart block; Ra
   Keppra (Oral) (Levetiracetam)
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2171-9-15**] 05:30 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2171-9-15**] 10:16 PM
   Morphine Sulfate - [**2171-9-16**] 08:00 AM
   Other medications:
   dig, metopr, spironolactone, fa, vit d, tums, mvi, tylenol q6, lasix
   standing
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-9-16**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 73 (73 - 88) bpm
   BP: 96/49(63) {80/19(39) - 130/64(84)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                    715 mL
                                                                    558 mL
   PO:
                                                                    330 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    385 mL
                                                                    108 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,390 mL
                                                                    380 mL
   Urine:
                                                                  1,390 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   104 K/uL
   112 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   39 mg/dL
   103 mEq/L
   139 mEq/L
   24.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2171-9-14**]  09:45 PM
                             [**2171-9-15**]  02:04 AM
                             [**2171-9-15**]  04:17 AM
                             [**2171-9-15**]  04:26 AM
                             [**2171-9-15**]  03:23 PM
                             [**2171-9-15**]  10:32 PM
                             [**2171-9-16**]  03:01 AM
   WBC
   8.2
   7.2
   Hct
   28.6
   26.6
   25.7
   24.4
   Plt
   120
   104
   Cr
   1.7
   1.8
   TropT
   0.04
   TCO2
   26
   26
   26
   Glucose
   154
   112
   Other labs: PT / PTT / INR:14.4/31.6/1.2, CK / CKMB /
   Troponin-T:208/9/0.04, Differential-Neuts:83.7 %, Lymph:11.9 %,
   Mono:2.1 %, Eos:2.2 %, Lactic Acid:2.8 mmol/L, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Imaging: no new
   Microbiology: none
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 .H/O HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 ATRIAL FIBRILLATION (AFIB)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   82F with severe CHF, likely both systolic and diastolic heart
   dysfunction, presents with acute pulmonary edema after hip replacement
   surgery, now much improved on minimal
   chf: unclear fluid status
   -tbb goal even to neg with prn lasix
   -cont spironolactoine
   -check cxr, bnp and reassess
   -clarify cardiology follow-up and discuss management with outpatient
   cardiology
   -repeat tte
   afib with rvr: now better controlled
   -restart coumadin
   -rate control with bb
   -repeat dig level
   seizure: none since coming to micu
   -outpatient followup
   -no anti-epileptics
   ICU Care
   Nutrition: cardiac
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2171-9-14**] 09:00 PM
   18 Gauge - [**2171-9-14**] 09:00 PM
   Arterial Line - [**2171-9-14**] 09:01 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent: 35 minutes